US05273993
Benzeneethanol sulfamate (ester).
The title compound was obtained using the following procedure: The sulfamoyl chloride in acetonitrile solution prepared in (a) was reacted as in Example 12 with 12.2 g (0.1 mole) of β-phenethyl alcohol using 40.4 g (0.4 mole) triethylamine in 100 ml additional acetonitrile followed by using extracting, washing and concentration procedures of Example 12 through the first evaporation. The crude oily residue was purified by chromatography (10×80 cm glass column; 700 g silica gel; eluents methylene chloride followed by 10:1 methylene chloride/acetone). Fractions containing the title compound were combined and solvents evaporated under reduced pressure to give 13.6 g (68% yield) of title compound as light-yellow oil.

reactant | sulfamoyl chloride | S(N)(=O)(=O)Cl | ClH2NO2S
reactant | β-phenethyl alcohol | 0.1 mole, 12.2 g | C1=CC=C(C=C1)CCO | C8H10O
solvent | acetonitrile | C(C)#N | C2H3N
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | Benzeneethanol sulfamate | 13.6 g, 68% yield | S(N)(=O)(=O)OCCC1=CC=CC=C1 | C8H11NO3S
